US07473784B2
1. Methyl 2-(2-aminobenzo[d]thiazol-6-yl)acetate
A mixture of 2-(2-aminobenzo[d]thiazol-6-yl)acetic acid (95%, 10.0 g, 45.6 mmol), methanol (50 mL), 4 N HCl/1,4-dioxane (12.0 mL, 48.0 mmol) in 1,4-dioxane (30 mL) was heated at 75° C. for 9 hr and then concentrated under vacuum. The residue was suspended into water (50 mL) and basified to pH 9 with 1N NaOH solution. The title compound (8.19 g, 81% yield) was collected as a pale solid by suction filtration and dried under vacuum at 50° C.

reactant | 2-(2-aminobenzo[d]thiazol-6-yl)acetic acid | 45.6 mmol, 10.0 g | NC=1SC2=C(N1)C=CC(=C2)CC(=O)O | C9H8N2O2S
reactant | methanol | 50 mL | CO | CH4O
reactant | HCl 1,4-dioxane | 48.0 mmol, 4 N, 12.0 mL | Cl.O1CCOCC1
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Methyl 2-(2-aminobenzo[d]thiazol-6-yl)acetate | 8.19 g, 81% yield | NC=1SC2=C(N1)C=CC(=C2)CC(=O)OC | C10H10N2O2S
